* C:\Users\fjmoy\OneDrive\Documentos\Fran\BuenosAires\2026\1C\Taller-de-Circuitos-Grupo-4\draft-circuitos.asc
* Generated by LTspice 24.1.9 for Windows.
Q6 Vo N003 Vreg 0 BC858B
Q5 N003 N005 Vo 0 BC848B
Q1 N004 Vref N007 0 BC848B
Q4 N005 N004 Vreg 0 BC858B
Q3 N004 N004 Vreg 0 BC858B
Q2 N005 N006 N007 0 BC848B
Q8 N007 N009 0 0 BC848B
Q7 N009 N009 0 0 BC848B
R1 Vo N006 10k
R2 0 N006 10k
RL 0 Vo 3.3
R3 Vreg N009 4k4
Vref Vref 0 2.5
Vreg N008 0 9.7
Vripple Vreg N008 SINE(0 200m 50)
.model NPN NPN
.model PNP PNP
.lib C:\Users\fjmoy\AppData\Local\LTspice\lib\cmp\standard.bjt
* .op
* .tran 100m
.dc Vreg 1 15 0.1
.backanno
.end
