* C:\Users\Santiago\Desktop\facu\2026c1\Circuitos G4\Checkpoint 3\Simulaciones\Regulacion de Carga.asc
Q1 N002 Vref N008 0 BC547B
Q2 N002 N002 Vreg 0 BC557B
R1 Vo N005 10k
R2 0 N005 10k
R3 Vreg N009 4k7
Vreg1 Vreg 0 9.5
RL Vo 0 {RL}
Qtip32a Vx N001 Vreg 0 PNP
RS Vx Vo 1.8
Rf Vf N007 10k
Rref N007 Vref 1.2k
Ro N007 Vo 150
Rx1 N004 Vx 3.9k
Rx2 N004 0 10k
XU1 N004 N007 Vreg 0 Vf LM358
Q3 N003 N002 Vreg 0 BC557B
Q4 N003 N005 N008 0 BC547B
Q5 N008 N009 0 0 BC547B
Q6 N009 N009 0 0 BC547B
Q7 N001 N003 Vx 0 BC547B
R10 Vreg Vref 680
XU2 0 Vref Vref TL431
Q8 N003 Vf 0 0 BC547B
RS1 Vx Vo 2.2
.model NPN NPN
.model PNP PNP
.lib C:\Users\Santiago\AppData\Local\LTspice\lib\cmp\standard.bjt
* .include tip32a.lib
.lib opamp.sub
.include TL431.mod
.inc lm358.lib
.step param RL list 0.01 3.333 10
.op
.lib TL431.mod
.backanno
.end
