* C:\Users\fjmoy\OneDrive\Documentos\Fran\BuenosAires\2026\1C\Taller-de-Circuitos-Grupo-5\Checkpoint 2\Simulaciones Spice\Analisis_termico.asc
* Generated by LTspice 24.1.9 for Windows.
Q1 N004 Vref N009 0 BC547B
Q2 N004 N004 N002 0 BC557B
R1 Vo N007 10k
R2 0 N007 10k
R3 Vreg N010 4k7
Vreg1 Vreg 0 9.5
RL1 Vo 0 50
Qtip1 Vx N001 Vreg 0 PNP
RS1 Vx Vo 2.2
R4 Vf N008 10k
R5 N008 Vref 1.2k
R6 N008 Vo 150
R7 N006 Vx 3.9k
R8 N006 0 10k
X§U1 N006 N008 Vreg 0 Vf LM358
Q3 N005 N004 N003 0 BC557B
Q4 N005 N007 N009 0 BC547B
Q5 N009 N010 N013 0 BC547B
Q6 N010 N010 N012 0 BC547B
Q7 N001 N005 Vx 0 BC547B
Q8 N005 Vf 0 0 BC547B
R13 N013 0 100
R14 N012 0 100
R11 Vreg N002 100
R12 Vreg N003 100
V1 N011 0 2.5
C2 P001 0 33n
V2 Vref N011 0
CL Vo 0 2.2µ
R9 N005 P001 100
RS2 Vx Vo 1.8
.model NPN NPN
.model PNP PNP
.lib C:\Users\fjmoy\AppData\Local\LTspice\lib\cmp\standard.bjt
* .include tip32a.lib
.lib opamp.sub
.inc lm358.lib
.include TL431.mod
* Q5
.op
.options logopinfo
.backanno
.end
